US04179511
6-Amino-2,2-dimethyl-3-(2-pivaloyloxymethyltetrazol-5-yl)penam
To a stirred suspension of 2.40 g. of 6-amino-2,2-dimethyl-3-(5-tetrazolyl)penam in 15 ml. of N,N-dimethylformamide, is added 2.8 ml. of triethylamine. Stirring is continued for a further 15 minutes, and then 2.68 g. of chloromethyl pivalate is added. The mixture is stirred at ambient temperature for 5 hours, and then it is diluted with 100 ml. of water. It is then extracted with ethyl acetate. The extract is washed with water, dried using anhydrous sodium sulfate, and then it is evaporated in vacuo to give a mixture of the title compounds. The individual isomers are obtained by chromatographic separation of the crude product.

reactant | 6-amino-2,2-dimethyl-3-(5-tetrazolyl)penam | NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O | C8H12N6OS
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | chloromethyl pivalate | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
solvent | water | O | H2O
product | 6-Amino-2,2-dimethyl-3-(2-pivaloyloxymethyltetrazol-5-yl)penam | NC1[C@@H]2N(C(C(S2)(C)C)C=2N=NN(N2)COC(C(C)(C)C)=O)C1=O | C14H22N6O3S
